US09388189B2
a) N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxybenzamide
N-(5-Bromo-2-chloropyridin-3-yl)-4-hydroxybenzamide (600 mg, 1.83 mmol) was suspended in a solution of sodium methoxide 25% in methanol (12 ml, 55 mmol and the reaction mixture was stirred at 50° C. overnight. The solvent was removed and the crude poured into water. The precipitate was filtered off and discarded and the filtrate was brought to pH7 by adding hydrogen chloride 2N. The precipitate was then filtered and washed with water and was purified using SP1® Purification System (0% to 25%, hexane-ethyl acetate) to give 74 mg (8% yield) of the title compound. Purity 62%.

reactant | N-(5-Bromo-2-chloropyridin-3-yl)-4-hydroxybenzamide | 1.83 mmol, 600 mg | BrC=1C=C(C(=NC1)Cl)NC(C1=CC=C(C=C1)O)=O | C12H8BrClN2O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxybenzamide | 74 mg, 8% yield | BrC=1C=C(C(=NC1)OC)NC(C1=CC=C(C=C1)O)=O | C13H11BrN2O3
